US07368600B2
L-Homoserine (2 mol) was suspended in 900 ml of acetic anhydride and admixed with a spatula tip full of dimethylaminopyridine (DMAP). It was slowly heated to 60° C. After approximately 1 hour, the temperature rapidly increased to 100° C. Subsequently the reaction mixture was stirred at 80° C. for 90 minutes and concentrated to dryness under vacuum. The resultant yellow oil was taken up in isopropanol (600 ml) and allowed to stand overnight at 0° C. The resultant crystals were filtered off, washed with cold isopropanol and dried under vacuum. The yield was 60% N-acetyl-2-amino-4-butyrolactone isolated, the purity 99% (according to HPLC).

reactant | L-Homoserine | 2 mol | N[C@@H](CCO)C(=O)O | C4H9NO3
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetic anhydride | 900 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-acetyl-2-amino-4-butyrolactone | yield was 60% | C(C)(=O)NC1C(=O)OCC1 | C6H9NO3
